data/oMe_Silver.jsonl
{"reaction_id": "NR-103_1-S(=O)(=O)N(C)C_2-O[Si](C(C)C)(C(C)C)C(C)C_3-C#CC(C)(C)C_4-c2sccc2_5-C(C)C","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(S(=O)(=O)N(C)C)c(O[Si](C(C)C)(C(C)C)C(C)C)c(C#CC(C)(C)C)c(c2sccc2)c1C(C)C","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(S(=O)(=O)N(C)C)c(O[Si](C(C)C)(C(C)C)C(C)C)c(C#CC(C)(C)C)c(c2sccc2)c1C(C)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(S(=O)(=O)N(C)C)c(O[Si](C(C)C)(C(C)C)C(C)C)c(C#CC(C)(C)C)c(c2sccc2)c1C(C)C","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(S(=O)(=O)N(C)C)c(O[Si](C(C)C)(C(C)C)C(C)C)c(C#CC(C)(C)C)c(c2sccc2)c1C(C)C","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
{"reaction_id": "NR-103_1-c2ccccc2_2-Br_3-C#CC(C)(C)C_4-OCC(C)C_5-CC","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(c2ccccc2)c(Br)c(C#CC(C)(C)C)c(OCC(C)C)c1CC","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(c2ccccc2)c(Br)c(C#CC(C)(C)C)c(OCC(C)C)c1CC"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(c2ccccc2)c(Br)c(C#CC(C)(C)C)c(OCC(C)C)c1CC","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(c2ccccc2)c(Br)c(C#CC(C)(C)C)c(OCC(C)C)c1CC","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
{"reaction_id": "NR-228_1-c1ccccc1_2-Cl_3-Br_4-c1ccc(N(=O)=O)cc1_5-C(C)(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(c1ccccc1)=C(Cl)(Br)","c1ccc(N(=O)=O)cc1C(=O)OC(C)(C)C"],"products_smiles": ["C(c1ccccc1)1OC1(Cl)Br"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccccc1)1OC1(Cl)Br","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
